US07470723B2
To a stirred solution of bis-(3-ethoxy-4-methoxy-phenyl)-methanol (8.80 g, 26.5 mmol) in CH2Cl2 (30 mL) at room temperature was added activated MnO2 powder (11.51 g, 132 mmol) and kept adding 2˜3 equivalents of MnO2 every 3˜5 h until HPLC showed at least 98% conversion occurred. The black suspension was filtered through a Celite pad, concentrated in vacuo to give bis-(3-ethoxy-4-methoxy-phenyl)-methanone as an off-white solid (7.42 g, 85% yield): 1H NMR (CDCl3) δ 1.49 (t, J=7 Hz, 6H, 2CH2CH3), 3.96 (s, 6H, 2OCH3), 6.89-6.92 (m, 2H, Ar), 7.16 (q, J=7 Hz, 4H, 2CH2CH3), 7.35-7.42 (m, 4H, Ar). The product was used in the next step without further purification.

reactant | bis-(3-ethoxy-4-methoxy-phenyl)-methanol | 26.5 mmol, 8.80 g | C(C)OC=1C=C(C=CC1OC)C(O)C1=CC(=C(C=C1)OC)OCC | C19H24O5
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 132 mmol, 11.51 g | O=[Mn]=O
catalyst | MnO2 | 2˜3 equivalents | O=[Mn]=O
product | bis-(3-ethoxy-4-methoxy-phenyl)-methanone | 7.42 g, 85% yield | C(C)OC=1C=C(C=CC1OC)C(=O)C1=CC(=C(C=C1)OC)OCC | C19H22O5
